US06933311B2
N-5-isoquinolinyl-3-[4-(trifluoromethyl)phenyl]acrylamide
5-Aminoisoquinoline (0.50 g, 3.47 mmol) and 3-[4-(trifluoromethyl)phenyl]acrylic acid (3.47 mmol) were combined in a sealed tube and heated at 175° C. for 16 hours with stirring. The mixture was cooled to room temperature, diluted with MeOH, transferred to a flask, and concentrated under reduced pressure. The residue was triturated with ethyl acetate and filtered to provide the title compound. MS (ESI+) m/z 343 (M+H)+; MS (ESI−) m/z 341 (M−H)−; 1H NMR (DMSO, 300 MHz) rotamers δ 6.68 (d, J 15.9, 1H), 7.29 (d, J 15.9, 1H), 7.60 (d, J 15.9, 1H), 7.80 (m, 1H), 8.25 (d, J 6.8, 1H), 8.57 (d, J 5.8, 1H), 9.35 (s, 1H), 10.36 (s, 1H); Anal. Calcd for C19H13F3N2O+2 HCl+0.3H2O: C, 54.25; H, 3.74; N, 6.66. Found: C, 53.90; H, 3.94; N, 7.20.

reactant | 5-Aminoisoquinoline | 3.47 mmol, 0.50 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | 3-[4-(trifluoromethyl)phenyl]acrylic acid | 3.47 mmol | FC(C1=CC=C(C=C1)C=CC(=O)O)(F)F | C10H7F3O2
solvent | MeOH | CO | CH4O
product | N-5-isoquinolinyl-3-[4-(trifluoromethyl)phenyl]acrylamide | C1=NC=CC2=C(C=CC=C12)NC(C=CC1=CC=C(C=C1)C(F)(F)F)=O | C19H13F3N2O
